US05374720
N,N-diisopropylethylamine (0.26 ml, 1.52 mmol) was dropwise added to a solution of allyl (1R,5S,6S)-2-diphenoxyphosphoryloxy-6-[(R)-1-hydroxyethyl]-1-methyl-1-carbapen-2-em-3-carboxylate (759 mg, 1.52 mmol) and (2R,4S)-N-allyloxycarbonyl-4-mercapto-2-(2-pyrrolidon-3ylmethyl)pyrrolidine (432 mg, 1.52 mmol) in acetonitrile (11 ml) at -40° C. The reaction solution mixture was stirred at the same temperature for 3 hours and further at 5° C. for 16 hours. Ethyl acetate (60 ml) was added to the reaction solution. This solution mixture was washed sequentially with a saturated sodium hydrogen carbonate aqueous solution and a saturated sodium chloride aqueous solution, then dried over anhydrous sodium sulfate and concentrated. The residue was purified by silica gel flash column chromatography (Wakogel™ C-300, 40 ml, acetone-ethyl acetate 2:3), and the fraction containing the desired product was concentrated to obtain allyl (1R,5S,6S)-2-[(2R, 4S)-N-allyloxycarbonyl-2-(2-pyrrolidon-3-ylmethyl)pyrrolidin-4-ylthio]-6-[(R)-1-hydroxyethyl]-1-methyl-1-carbapen-2-em-3-carboxylate (420 mg, yield: 51.8%) in the form of foam.

reactant | N,N-diisopropylethylamine | 1.52 mmol, 0.26 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | allyl (1R,5S,6S)-2-diphenoxyphosphoryloxy-6-[(R)-1-hydroxyethyl]-1-methyl-1-carbapen-2-em-3-carboxylate | 1.52 mmol, 759 mg | O(C1=CC=CC=C1)P(=O)(OC1=CC=CC=C1)OC=1[C@@H]([C@@H]2N(C1C(=O)OCC=C)C([C@@H]2[C@@H](C)O)=O)C | C25H26NO8P
reactant | (2R,4S)-N-allyloxycarbonyl-4-mercapto-2-(2-pyrrolidon-3ylmethyl)pyrrolidine | 1.52 mmol, 432 mg | C(C=C)OC(=O)N1[C@@H](C[C@@H](C1)S)CC1C(NCC1)=O | C13H20N2O3S
reactant | Ethyl acetate | 60 ml | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | 11 ml | C(C)#N | C2H3N
product | allyl (1R,5S,6S)-2-[(2R, 4S)-N-allyloxycarbonyl-2-(2-pyrrolidon-3-ylmethyl)pyrrolidin-4-ylthio]-6-[(R)-1-hydroxyethyl]-1-methyl-1-carbapen-2-em-3-carboxylate | 420 mg, yield: 51.8% | C(C=C)OC(=O)N1[C@@H](C[C@@H](C1)SC=1[C@@H]([C@H]2N(C1C(=O)OCC=C)C([C@@H]2[C@@H](C)O)=O)C)CC2C(NCC2)=O | C26H35N3O7S
